US05455258
N-[4-methoxybenzenesulfonyl]-(D)-leucine (14.0 g, 46.5 mmol) is dissolved in toluene (100.0 mL), and heated to 90° C. N,N-Dimethylformamide di-t-butyl acetal (45.0 mL, 186.0 mmol) is added dropwise over 20 minutes, and then the reaction is kept at 90° C. for another 2 hours. After cooling back down, the reaction is diluted with ethyl acetate and washed successively with saturated sodium bicarbonate, water, and brine. The organic phase is dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (20% ethyl acetate/hexane) to give N-[4-methoxybenzenesulfonyl]-(D)-leucine t-butyl ester.

reactant | N-[4-methoxybenzenesulfonyl]-(D)-leucine | 46.5 mmol, 14.0 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](CC(C)C)C(=O)O | C13H19NO5S
reactant | N,N-Dimethylformamide di-t-butyl acetal | 186.0 mmol, 45.0 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 100.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-methoxybenzenesulfonyl]-(D)-leucine t-butyl ester | C(C)(C)(C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC)CC(C)C)=O | C17H27NO5S
